* C:\Users\arthu\Documents\KiCad\OPA_PHONO\RIAA_Filter.asc
V§AC1 N007 0 AC 5m
R1 N003 N004 {mc(16k,tolr)}
R2 N003 N011 {mc(2.32k,tolr)}
C1 N011 0 {mc(68n,tolc)}
C2 N011 0 {mc(68n,tolc)}
C3 N003 0 {mc(47n,tolc)}
E1 N001 0 N007 0 Laplace=(((1+3180u*s)*(1+75u*s))/((1+318u*s)))/10
XOPA1644 N005 vin N004 opamp Aol=1Meg GBW=11Meg
R4 N004 N005 3.3k
R5 N005 0 100R
XOPA1612 N006 N003 vout opamp Aol=1Meg GBW=40Meg
R6 vout N006 3.3k
R7 N006 0 100R
XU3 N010 N008 N009 opamp Aol=100K GBW=10Meg
R8 N009 N006 47k
R9 N008 vout 47k
R10 0 N010 47k
C4 N010 N009 1µ
C5 0 N008 1µ
R11 N002 N001 750
L1 N002 vin 450m
R13 vin 0 47k
C6 vin 0 {X}
Rbypass vin N001 {Rbyp}
.ac dec 20 0.1 1Meg
;.step param run 1 50 1
.param tolr=0.01 tolc=0.02 X=102p
* Laplace=(((1+3180u*s)*(1+75u*s))/((1+318u*s)*(1+3.18u*s)))/10
.lib opamp.sub
*.step param X list 50p 100p 120p
* cartridge model from OM10 https://www.ortofon.com/om-series-p-550
;ac dec 20 20 20k
.meas AC RIAA_dev_pp PP V(vout)
.step param Rbyp list 1G 1f
.backanno
.end
